US04707476
15 g (0.05 mole) of dibenzo[b,f]thiepine-10,11-diethanol are dissolved at room temperature in 60 ml of pyridine and the solution is treated dropwise in an ice-sodium chloride bath, at a reaction temperature of -5° C., with 8.4 ml (12.6 g, 0.11 mole) of methanesulphonyl chloride. The reaction mixture is subsequently stirred for 30 minutes at 0° C. and then for 1 hour at 15°-25° C. Together with 500 ml of methylene chloride the reaction mixture is then extracted in a separating funnel in succession with 400 ml of 2N hydrochloric acid and 400 ml of water. The methylene chloride solution is separated, dried over magnesium sulphate, and concentrated in a water jet vacuum to give as residue 10,11-bis-[2-(methylsulphonyloxy)-ethyl]-dibenzo[b,f]thiepine with a melting point of 107°-108° C.

reactant | dibenzo[b,f]thiepine-10,11-diethanol | 0.05 mole, 15 g | C1=CC=CC=2SC3=C(C(=C(C21)CCO)CCO)C=CC=C3 | C18H18O2S
reactant | methanesulphonyl chloride | 0.11 mole, 8.4 ml, 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 10,11-bis-[2-(methylsulphonyloxy)-ethyl]-dibenzo[b,f]thiepine | CS(=O)(=O)OCCC1=C(C2=C(SC3=C1C=CC=C3)C=CC=C2)CCOS(=O)(=O)C | C20H22O6S3
